US09029536B2
E) 2-[(2-[4-(1-Ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenoxy]-1H-benzimidazol-1-yl]ethanol
LiAlH4 (24.8 mg) was added to a solution of ethyl 2-{2-[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenoxy]-1H-benzo[d]imidazol-1-yl}acetate (144 mg) in THF (3.5 ml) at 0° C. After stirring for 1 h at the same temperature, Na2SO4.10H2O was added to the reaction mixture at 0° C. and stirred for 30 min. After Na2SO4 was added to this mixture, the precipitate was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane). The solid was crystallized from AcOEt/hexane to give the title compound (81 mg).

reactant | LiAlH4 | 24.8 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 2-{2-[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenoxy]-1H-benzo[d]imidazol-1-yl}acetate | 144 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(OC1=NC3=C(N1CC(=O)OCC)C=CC=C3)C=C2 | C25H23N5O3
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | THF | 3.5 ml | C1CCOC1 | C4H8O
product | (2-[4-(1-Ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenoxy]-1H-benzimidazol-1-yl]ethanol | 81 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(OC1=NC3=C(N1C(C)O)C=CC=C3)C=C2 | C23H21N5O2
